US08937073B2
5b) (6-aminomethyl-pyridin-3-yl)-(4-methoxy-2-trifluoromethyl-phenyl)-amine
Analogously to Example 4b, 5-(4-methoxy-2-trifluoromethyl-phenylamino)-pyridine-2-carbonitrile (1.71 mmol) was hydrogenated in a 7N solution of ammonia in methanol (30 mL) with the addition of Raney nickel at ambient temperature. After the catalyst had been filtered off and the solvent distilled off, the crude product thus obtained was further reacted without purification.

reactant | 5-(4-methoxy-2-trifluoromethyl-phenylamino)-pyridine-2-carbonitrile | 1.71 mmol | COC1=CC(=C(C=C1)NC=1C=CC(=NC1)C#N)C(F)(F)F | C14H10F3N3O
reactant | ammonia | N | H3N
solvent | methanol | 30 mL | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | (6-aminomethyl-pyridin-3-yl)-(4-methoxy-2-trifluoromethyl-phenyl)-amine | NCC1=CC=C(C=N1)NC1=C(C=C(C=C1)OC)C(F)(F)F | C14H14F3N3O
